US06277790B1
N-Propyl-N-(tetrahydrofuran-3-yl)-4,5-dihydro-4-(2-fluorophenyl)-1H-tetrazol-5-one-1-carboxamide (No. Ib.12)
1.4 g (7.8 mmol) of 1,2-dihydro-1-(2-fluorophenyl)-5H-tetrazol-5-one, 1.5 g (7.8 mmol) of N-propyl-N-(tetrahydro-furan-3-yl)carbamoyl chloride and 1.29 g (10 mmol) of 4-dimethylaminopyridine were reacted by the method of the process described in Example 1. Yield 2.1 g.

reactant | 1,2-dihydro-1-(2-fluorophenyl)-5H-tetrazol-5-one | 7.8 mmol, 1.4 g | FC1=C(C=CC=C1)N1NN=NC1=O | C7H5FN4O
reactant | N-propyl-N-(tetrahydro-furan-3-yl)carbamoyl chloride | 7.8 mmol, 1.5 g | C(CC)N(C(=O)Cl)C1COCC1 | C8H14ClNO2
catalyst | 4-dimethylaminopyridine | 10 mmol, 1.29 g | CN(C1=CC=NC=C1)C | C7H10N2
product | N-Propyl-N-(tetrahydrofuran-3-yl)-4,5-dihydro-4-(2-fluorophenyl)-1H-tetrazol-5-one-1-carboxamide | C(CC)N(C(=O)N1N=NN(C1=O)C1=C(C=CC=C1)F)C1COCC1 | C15H18FN5O3
